US07772246B2
To a suspension of 5-bromo-1-(4-bromophenylsulfonyl)-3-methyl-1H-pyrrolo[2,3-b]pyridine (B-6-2) (0.9 g, 2.56 mmol) in THF (20 mL) was added dropwise LDA (15 mL, 0.2 M in THF) at −40° C. The mixture was stirred at −10˜−20° C. for 0.5 hour. Methyl iodide (0.55 g 3.84 mmol) was added dropwise at −40˜−30° C. The reaction was stirred at room temperature overnight. LC-MS showed that the reaction was complete. Saturated aqueous NaCl (10 mL) and EtOAc (10 mL) were added into the mixture. The organic layer was separated, dried over anhydrous Na2SO4 and concentrated to give 5-bromo-2,3-dimethyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (B-6-3) (0.9 g, 96.3%, containing some starting material (B-6-2) as a light yellow solid.

reactant | 5-bromo-1-(4-bromophenylsulfonyl)-3-methyl-1H-pyrrolo[2,3-b]pyridine | 2.56 mmol, 0.9 g | BrC=1C=C2C(=NC1)N(C=C2C)S(=O)(=O)C2=CC=C(C=C2)Br | C14H10Br2N2O2S
reactant | LDA | 0.2 M, 15 mL | [Li+].CC(C)[N-]C(C)C
reactant | Methyl iodide | 3.84 mmol, 0.55 g | CI | CH3I
reactant | NaCl | 10 mL | [Na+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 5-bromo-2,3-dimethyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | BrC=1C=C2C(=NC1)N(C(=C2C)C)S(=O)(=O)C2=CC=CC=C2 | C15H13BrN2O2S
